US04735940
2.85 g of 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) was heated under reflux overnight in 100 ml of xylene together with 1.45 ml of phenylvinyl sulfoxide, whereupon the reaction mixture was evaporated in vacuo and the residue obtained was chromatographed on silica gel with toluene/ethyl acetate (9:1). There was obtained 4,5-dihydro-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one of m.p. 133°-134° (from ethyl acetate).

reactant | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | 2.85 g | [OH-].OC1=C(SC2=[N+]1CCC1=C2SC=C1)C1=CC=CC=C1
reactant | phenylvinyl sulfoxide | 1.45 ml | C1(=CC=CC=C1)S(=O)C=C | C8H8OS
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4,5-dihydro-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one | C1(=CC=CC=C1)C=1C(N2CCC3=C(C2=CC1)SC=C3)=O | C17H13NOS
